US09029639B2
2-Chloro-thiazole-4-carboxylic acid methyl-pyridazin-4-yl-amide
200 mg (1.2 mmol) of 2-chlorothiazole-4-carboxylic acid and 96.1 mg (0.9 mmol) of pyridazin-4-yl-amine were dissolved in 6 ml dimethyl formamide. 0.15 mL (1.1 mmol) of triethyl amine followed by 382 mg (0.73 mmol) of 1H-Benzotriazol-1-yloxytri-pyrrolidinophosphonium hexafluorophosphate (PyBOP) were added and the reaction mixture was stirred at room temperature for 16 h. Brine was added and the reaction mixture was extracted three times with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The obtained residue was purified by flash column chromatography (silica, gradient elution cyclohexane, ethyl acetate, methanol) to give 200 mg (61%, 95% purity) of the title compound.

reactant | 2-chlorothiazole-4-carboxylic acid | 1.2 mmol, 200 mg | ClC=1SC=C(N1)C(=O)O | C4H2ClNO2S
reactant | pyridazin-4-yl-amine | 0.9 mmol, 96.1 mg | N1=NC=C(C=C1)N | C4H5N3
reactant | triethyl amine | 1.1 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | 1H-Benzotriazol-1-yloxytri-pyrrolidinophosphonium hexafluorophosphate | 0.73 mmol, 382 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | dimethyl formamide | 6 ml | CN(C=O)C | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | 2-Chloro-thiazole-4-carboxylic acid methyl-pyridazin-4-yl-amide | CN(C(=O)C=1N=C(SC1)Cl)C1=CN=NC=C1 | C9H7ClN4OS
